US07939526B2
A mixture of 1-{[(3-nitroquinolin-4-yl)amino]methyl}cyclopropanol (3.50 g, 13.5 mmol) and 5% platinum on carbon (350 mg) in ethyl acetate (70 mL) and methanol (7 mL) was hydrogenated under 35 psi (2.4×105 Pa) on a Parr apparatus for 3 hours. The mixture was filtered through CELITE filter agent, which was rinsed with ethyl acetate. The filtrate was concentrated under reduced pressure to yield 1-{[(3-aminoquinolin-4-yl)amino]methyl}cyclopropanol 1-{[(3-nitroquinolin-yl)amino]methyl}cyclopropanol an orange oil that was used immediately in the next step.

reactant | 1-{[(3-nitroquinolin-4-yl)amino]methyl}cyclopropanol | 13.5 mmol, 3.50 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCC1(CC1)O | C13H13N3O3
catalyst | platinum on carbon | 350 mg | [Pt] | Pt
solvent | ethyl acetate | 70 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 7 mL | CO | CH4O
product | 1-{[(3-aminoquinolin-4-yl)amino]methyl}cyclopropanol 1-{[(3-nitroquinolin-yl)amino]methyl}cyclopropanol | [N+](=O)([O-])C=1C(=NC2=CC=CC=C2C1)NCC1(CC1)O.NC=1C=NC2=CC=CC=C2C1NCC1(CC1)O | InChI=1S/C13H13N3O3.C13H15N3O/c17-13(5-6-13)8-14-12-11(16(18)19)7-9-3-1-2-4-10(9)15-12;14-10-7-15-11-4-2-1-3-9(11)12(10)16-8-13(17)5-6-13/h1-4,7,17H,5-6,8H2,(H,14,15);1-4,7,17H,5-6,8,14H2,(H,15,16)
